US09359338B2
Step 2: Synthesis of tert-butyl N-[4-[(3-methyl-5-nitro-2-pyridyl)oxy]-2-pyridyl]carbamate
Add 4-[(3-methyl-5-nitro-2-pyridyl)oxy]pyridin-2-amine (400 mg, 1.62 mmol), Boc2O (388 mg, 1.78 mmol) to t-BuOH (10 mL). Stir the reaction at 50° C. for 12 hrs. Concentrate to give the crude product. Purification by chromatography (silica gel, EtOAc:PE=1:3) affords the title compound (400 mg, 71%). MS: (M+1): 347.

reactant | 4-[(3-methyl-5-nitro-2-pyridyl)oxy]pyridin-2-amine | 1.62 mmol, 400 mg | CC=1C(=NC=C(C1)[N+](=O)[O-])OC1=CC(=NC=C1)N | C11H10N4O3
reactant | Boc2O | 1.78 mmol, 388 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | t-BuOH | 10 mL | CC(C)(C)O | C4H10O
product | tert-butyl N-[4-[(3-methyl-5-nitro-2-pyridyl)oxy]-2-pyridyl]carbamate | 400 mg, 71% | CC=1C(=NC=C(C1)[N+](=O)[O-])OC1=CC(=NC=C1)NC(OC(C)(C)C)=O | C16H18N4O5
